US05962458
Sodium hydride (0.72 g of a 60% suspension in mineral oil, 18 mmol) was added to a solution of 4-hydroxymethylpyridine (4 g, 36 mmol) in THF (30 ml) and the mixture heated at reflux for 15 minutes. 7-Fluoro-3,4-dihydroquinazolin-4-one (1 g, 6 mmol), (J. Chem. Soc. section B 1967, 449), was added, the THF was removed by evaporation, and the mixture was heated at 120° C. for 30 minutes. The mixture was allowed to cool, diluted with water (40 ml) and was adjusted to pH8 with concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water, then ether and dried under vacuum to give 7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (1.12 g, 71 %).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-hydroxymethylpyridine | 36 mmol, 4 g | OCC1=CC=NC=C1 | C6H7NO
reactant | 7-Fluoro-3,4-dihydroquinazolin-4-one | 6 mmol, 1 g | FC1=CC=C2C(NC=NC2=C1)=O | C8H5FN2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 1.12 g, 71 % | N1=CC=C(C=C1)COC1=CC=C2C(NC=NC2=C1)=O | C14H11N3O2
